US05998436
Synthesis of ethyl 8-bromo-1-[6-(t-butylamino)-5-fluoropyridin-2-yl]-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate
To 1 ml of chloroform solution of ethyl 3-ethoxy-2-(3-bromo-2,4,5-trifluorobenzoyl)acrylate prepared from 0.65 g of ethyl 3-bromo-2,4,5-trifluorobenzoylacetate by normal process was added 0.3 g of 2-amino-6-(t-butylamino)-5-fluoropyridine. The solution was concentrated under reduced pressure to obtain yellowish orange solid residue. To this residue were added 0.4 g of anhydrous potassium carbonate and 2 ml of N,N-dimethylformamide, and the mixture was stirred at 90° C. for 25 minutes and allowed to cool. The solution was separated by adding 25 ml of chloroform and 400 ml of distilled water, and the chloroform layer was washed with 400 ml of distilled water, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. After adding 2 ml of ethanol, the solution was and allowed to stand. The precipitate was dispersed in ethanol and collected by filtration, and washed with ethanol and diisopropylether successively to obtain 0.53 g of the title compound as a pale yellow powder.

reactant | ethyl 3-ethoxy-2-(3-bromo-2,4,5-trifluorobenzoyl)acrylate | C(C)OC=C(C(=O)OCC)C(C1=C(C(=C(C(=C1)F)F)Br)F)=O | C14H12BrF3O4
reactant | ethyl 3-bromo-2,4,5-trifluorobenzoylacetate | 0.65 g | BrC=1C(=C(C(=O)CC(=O)OCC)C=C(C1F)F)F | C11H8BrF3O3
reactant | 2-amino-6-(t-butylamino)-5-fluoropyridine | 0.3 g | NC1=NC(=C(C=C1)F)NC(C)(C)C | C9H14FN3
reactant | potassium carbonate | 0.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | chloroform | 1 ml | C(Cl)(Cl)Cl | CHCl3
product | ethyl 8-bromo-1-[6-(t-butylamino)-5-fluoropyridin-2-yl]-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate | 0.53 g | BrC=1C(=C(C=C2C(C(=CN(C12)C1=NC(=C(C=C1)F)NC(C)(C)C)C(=O)OCC)=O)F)F | C21H19BrF3N3O3
